* Marshall model 1987 "Plexi" 50 W lead — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published Marshall
* 1987 factory drawing's component values (Unicord drawing 70-19-11, July 1970;
* see meta.yaml). No drawing reproduced.
*
* NO PUBLISHED VOLTAGE CHART: Marshall drawings of this era print component
* values only, never a valve-voltage chart. This amp therefore lands as DRAFT
* (verified is earned against a measured reference, never forced). The reservoir
* B+1 is DRIVEN at 490 V — a representative figure for the published 50 W Plexi
* HT rail, stated as a modelling assumption, NOT a measurement — and the
* downstream rails are DERIVED through the drawn decoupling network (choke +
* 10 kΩ/1 W droppers + the 47 kΩ PI->2nd-stage dropper). Node voltages are
* reported informationally in voltages.yaml (chart: null); none is gate-compared.
*
* DC conventions (as in the sibling amps): the output-transformer primary DCR is
* omitted, so each EL34 plate node sits at B+1. DC-open caps whose BOTH leads land
* on named DC nodes are modelled (they move no operating point but let the layout
* net-check verify their placement): the cathode-bypass caps C1/C2/C7, the PI
* plate-to-plate compensation cap C12, and the PI->EL34-grid couplers C13/C14.
* Caps with a lead inside an abstracted network (the volume/tone couplers C3/C4/
* C11, tone-stack internals) stay out. The fixed-bias network (HT-tap diode,
* 220k/15k/25k + 8uF filters) is replaced by an ideal negative source; the drawing
* prints no bias figure, so the value is a representative estimate. Grid-leak and
* grid-return resistors carry ~0 DC; grids sit at their leak return. Heaters, the
* pilot lamp and the PT/rectifier AC side are not modelled.
.include models/12ax7.inc
.include models/el34.inc

VBP1 BP1 0 DC 490
VBIAS NBIAS 0 DC -48

* Rail chain: reservoir -> choke -> EL34 screens -> 10k -> PI -> 47k -> 2nd stage
* -> 10k -> input stage. Choke DCR estimated; dropper values from the drawing.
RCHOKE BP1 BP2 50
RD1 BP2 BP3 10k
RD2 BP3 BP4 47k
RD3 BP4 BP5 10k

* --- V1 (ECC83) input valve: two channels ---
* V1A channel I (high-treble): 100k plate, 820R cathode, 320uF bypass
RL1 BP5 P1A 100k
XV1A P1A G1A K1A 12AX7
RG1 G1A 0 1meg
RK1 K1A 0 820
C1 K1A 0 320u
* V1B channel II (normal): 100k plate, 2.7k cathode, 0.68uF partial bypass
RL2 BP5 P1B 100k
XV1B P1B G1B K1B 12AX7
RG2 G1B 0 1meg
RK2 K1B 0 2.7k
C2 K1B 0 0.68u

* --- V2 (ECC83) second stage + cathode follower ---
* V2A gain stage: grid returns to ground through the volume pots + 470k mixers
* (represented as a 470k DC return); 100k plate; 820R cathode (0.68uF bypass)
RL3 BP4 P2A 100k
XV2A P2A G2A K2A 12AX7
RGMIX G2A 0 470k
RK3 K2A 0 820
C7 K2A 0 0.68u
* V2B cathode follower: grid DC-coupled to V2A plate, plate to the 2nd-stage
* rail, 100k cathode load feeding the TMB tone stack
XV2B BP4 P2A KCF 12AX7
RKCF KCF 0 100k

* --- V3 (ECC83) long-tailed-pair phase inverter ---
* 100k (V3A) / 82k (V3B) plate loads from the PI rail; 470R shared cathode over a
* 10k tail; V3A grid from the tone stack (0.022 coupler, DC-open) with a 1M leak;
* V3B grid AC-grounded, DC-referred to the tail junction through its 1M leak.
RLA BP3 PPIA 100k
XV3A PPIA GPIA KPI 12AX7
RGA GPIA JPI 1meg
RLB BP3 PPIB 82k
XV3B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI 0 10k
* 47pF plate-to-plate phase-compensation cap (DC-open, both leads on named nodes)
C12 PPIA PPIB 47p

* --- V4 / V5 (EL34) push-pull output, fixed bias ---
* Cathodes grounded; screens from the screen node (B+2); plates at B+1 (OT primary
* DCR omitted). Each grid sits at the -48 V bias line through its 220k leak (the
* PI plates couple in through 0.022uF caps that are open at DC). g3 (suppressor)
* is tied to the cathode in use; the model's node order is P G2 G1 K.
* The 0.022uF PI->grid couplers (C13/C14) are open at DC (no op-point shift) but
* are modelled — both leads on named DC nodes — so the layout net-check proves the
* push-pull phase natively: a coupler on the wrong grid, or crossed PI outputs,
* becomes a WRONG TERMINAL rather than escaping as unmodelled wiring.
* NOTE the -48 V modelling bias is MORE negative than a real 1987's measured
* ~-34..-40 V grid bias: the single-anchor EL34 fit (anchored at Va=Vg2=250,
* Vg1=-13.5) over-predicts plate current when extrapolated to the 490 V rail, so a
* colder bias is needed to land a physical ~40 mA/tube idle. This is a v0-model
* limitation (models/METHODOLOGY.md), and is why the amp is DRAFT, not verified.
RGL1 G4 NBIAS 220k
C13 PPIA G4 0.022u
XV4 BP1 BP2 G4 0 EL34
RGL2 G5 NBIAS 220k
C14 PPIB G5 0.022u
XV5 BP1 BP2 G5 0 EL34
